US05280026
2,4-Bis(N-methylphenylamino)thieno[3,2-d]pyrimidine
2,4-Dichlorothieno[3,2-d]pyrimidine (1 g, 0.0048 mol) and N-methylaniline (5 ml) were heated at 130° for 1 hour. The reaction mixture was diluted with dichloromethane (200 ml) and extracted with 2N hydrochloric acid (3×150 ml). The organic phase was then washed with sodium carbonate, dried over magnesium sulphate, filtered and evaporated under reduced pressure to give a brown solid. Recrystallization from methanol gave the title compound, (1.08 g), m.p. 120°-122°.

reactant | 2,4-Dichlorothieno[3,2-d]pyrimidine | 0.0048 mol, 1 g | ClC=1N=C(C2=C(N1)C=CS2)Cl | C6H2Cl2N2S
reactant | N-methylaniline | 5 ml | CNC1=CC=CC=C1 | C7H9N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2,4-Bis(N-methylphenylamino)thieno[3,2-d]pyrimidine | 1.08 g | CN(C=1N=C(C2=C(N1)C=CS2)N(C)C2=CC=CC=C2)C2=CC=CC=C2 | C20H18N4S
